US05962682
Analogously to Example 74, by condensing 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid with 3,4-methylenedioxyaniline there was obtained N-benzo-[1,3]dioxol-5-yl-3-(4-tert-butylbenzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzamide.

reactant | 3-(4-tert-butyl-benzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)OCCO | C26H29NO8S
reactant | 3,4-methylenedioxyaniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | N-benzo-[1,3]dioxol-5-yl-3-(4-tert-butylbenzenesulphonylamino)-5-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-benzamide | O1COC2=C1C=CC(=C2)NC(C2=CC(=C(C(=C2)OCCO)OC2=CC(=CC=C2)OC)NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)=O | C33H34N2O9S
